US08492560B2
To a suspension of 6-methoxy-7-(piperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one hydrochloride (34 g, 84 mmol), (prepared as described for the starting material in Example 12), in water cooled at 0° C. was added 1N sodium hydroxide until the mixture was at pH8. The solution was extracted with trichloromethane and the organic layer was dried (MgSO4), filtered and evaporated to give 6-methoxy-7-(piperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (29 g).

reactant | 6-methoxy-7-(piperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one hydrochloride | 84 mmol, 34 g | Cl.COC=1C=C2C(N(C=NC2=CC1OCC1CCNCC1)COC(C(C)(C)C)=O)=O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 6-methoxy-7-(piperidin-4-ylmethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 29 g | COC=1C=C2C(N(C=NC2=CC1OCC1CCNCC1)COC(C(C)(C)C)=O)=O | C21H29N3O5
